US05882628
a. 3-Nitro-5-(2-trimethylsilylvinyl)benzoic acid methyl ester
A mixture of 3-iodo-5-nitrobenzoic acid methyl ester (307 mg, 1.0 mmol), Pd(OAc)2 (67 mg, 0.30 mmol), triphenylphosphine (0.032 g, 0.60 mmol), AgNO3 (170 mg, 1.0 mmol), triethylamine (0.167 ml, 1.2 mmol) and vinyltrimethylsilane (0.309 ml, 2.0 mmol) was dissolved in acetonitrile (10 ml) and the solution was heated to 60° C. in a closed vessel for 48 h. The precipitated salts were filtered off and the filtrate was evaporated. The residue was chromatographed on silica gel using a mixture of ethyl acetate and heptane (1:11) as the eluent. Yield: 210 mg (75%).

reactant | 3-iodo-5-nitrobenzoic acid methyl ester | 1.0 mmol, 307 mg | COC(C1=CC(=CC(=C1)[N+](=O)[O-])I)=O | C8H6INO4
reactant | triphenylphosphine | 0.60 mmol, 0.032 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 1.2 mmol, 0.167 ml | C(C)N(CC)CC | C6H15N
reactant | vinyltrimethylsilane | 2.0 mmol, 0.309 ml | C(=C)[Si](C)(C)C | C5H12Si
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
catalyst | Pd(OAc)2 | 0.30 mmol, 67 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | AgNO3 | 1.0 mmol, 170 mg | [N+](=O)([O-])[O-].[Ag+]
product | 3-Nitro-5-(2-trimethylsilylvinyl)benzoic acid methyl ester | COC(C1=CC(=CC(=C1)C=C[Si](C)(C)C)[N+](=O)[O-])=O | C13H17NO4Si
